US07906517B2
Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1,3-diethylureido)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (165 mg) is dissolved in ethanol (3 ml) and thereto is added 2N-aqueous sodium hydroxide solution (342 μl) and the mixture is stirred at room temperature overnight. To the reaction solution are added ethyl acetate and a 1N-hydrochloric acid, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→17:3) to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1,3-diethylureido)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid (68 mg). MS (m/z): 696 [M+H]+

reactant | Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1,3-diethylureido)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 165 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)N(C(=O)NCC)CC)C=C(C1)C(F)(F)F)(F)F | C32H34F9N5O4
reactant | sodium hydroxide | 342 μl | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1,3-diethylureido)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid | 68 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)N(C(=O)NCC)CC)C=C(C1)C(F)(F)F)(F)F | C30H30F9N5O4
